US07601870B2
(4-Amino-2,6-dimethyl-phenyl)-carbamic acid propyl ester
Aqueous hydrochloric acid (6 M, 8.3 mL) was added slowly to a mixture of zinc dust (4.9 g) and (2,6-dimethyl-4-nitro-phenyl)-carbamic acid propyl ester (1.26 g) in tetrahydrofuran (50 mL) cooled to 0° C. The reaction mixture was then stirred for 5 hours at 25° C., and the pH adjusted to 10 with 25% aqueous ammonia. The product was extracted with ethyl acetate (3×50 mL), the combined organic phases were dried over magnesium sulfate and concentrated in vacuo to furnish 1.1 g (99% yield) of the title compound as a dark oil. The crude product was used without further purification. 1H NMR (500 MHz, DMSO-d6): 0.91 (t, 3H), 1.60 (m, 2H), 1.99 (s, 6H), 3.95 (t, 2H), 4.82 (s, 2H), 6.23 (s, 2H), 8.14 (s, 1H).

reactant | hydrochloric acid | 6 M, 8.3 mL | Cl | ClH
reactant | (2,6-dimethyl-4-nitro-phenyl)-carbamic acid propyl ester | 1.26 g | C(CC)OC(NC1=C(C=C(C=C1C)[N+](=O)[O-])C)=O | C12H16N2O4
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | zinc | 4.9 g | [Zn] | Zn
product | (4-Amino-2,6-dimethyl-phenyl)-carbamic acid propyl ester | 1.1 g, 99% yield | C(CC)OC(NC1=C(C=C(C=C1C)N)C)=O | C12H18N2O2
